US06420549B1
2′/3′-O-Allyl Adenosine
Adenosine (20 g, 74.84 mmol) was dried over P2O5 under high vacuum at 40° C. for two days. It was then suspended in DMF under inert atmosphere. Sodium hydride (2.5 g, 74.84 mmol, 60% dispersion in mineral oil), stirred at. room temperature for 10 minutes. Then allyl bromide (7.14 mL, 82.45 mmol) was added dropwise and the reaction mixture was stirred at room temperature overnight. DMF was removed under vacuum and residue was washed with ethyl acetate (100 mL). Ethyl acetate layer was decanted. Filtrate obtained contained product. It was then placed on a flash column and eluted with 10% MeOH in CH2Cl2 to get the title compound (15.19 g, 66%). Rf 0.4, 0.4a ((10% MeOH in CH2Cl2).

reactant | Adenosine | 74.84 mmol, 20 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | Sodium hydride | 74.84 mmol, 2.5 g | [H-].[Na+]
reactant | allyl bromide | 82.45 mmol, 7.14 mL | C(C=C)Br | C3H5Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 3′-O-Allyl Adenosine | 15.19 g, 66% | C(C=C)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C=NC=2C(N)=NC=NC12)O | C13H17N5O4
